US06893815B1
2,4-Di(N-benzylpiperazinyl)-6-hydrazinopyrimidine
A solution of 2,4-di(N-benzylpiperazinyl)-6-chloropyrimidine (48.4 g, 104 mmol), hydrazine (96 g, 3 mol), in p-dioxane (1000 mL) was heated at 75° C. for 16 hours. The reaction was concentrated, dissolved in CH2Cl21 washed with H2O, and dried (MgSO4). Filtration and concentration of the resulting solution gave 46 g (97%) of the title compound as a foam. 1H NMR (CDCl3) δ 2.44 (m, 8H, piperazine), 3.52-3.59 (m, 8H, piperazine), 3.71 (m, 4H, CH2), 5.22 (s, 1H, C5H), 5.72 (bs, 2H, NH2)1 7.30 (m, 10H, Ar).

reactant | 2,4-di(N-benzylpiperazinyl)-6-chloropyrimidine | 104 mmol, 48.4 g | C(C1=CC=CC=C1)N1C(CNCC1)C1=NC(=CC(=N1)C1N(CCNC1)CC1=CC=CC=C1)Cl | C26H31ClN6
reactant | hydrazine | 3 mol, 96 g | NN | H4N2
solvent | p-dioxane | 1000 mL | O1CCOCC1 | C4H8O2
product | 2,4-Di(N-benzylpiperazinyl)-6-hydrazinopyrimidine | 46 g, 97% | C(C1=CC=CC=C1)N1C(CNCC1)C1=NC(=CC(=N1)C1N(CCNC1)CC1=CC=CC=C1)NN | C26H34N8
